US07402673B2
a. Preparation of 6-phenethyloxyhexanenitrile
6-Bromohexanenitrile (3.0 mL, 23 mmol) and tetrabutylammonium bromide (350 mg, 1.1 mmol) were dissolved in tetrahydrofuran (5 mL) and 50% aqueous sodium hydroxide (15 mL). Phenethyl alcohol (3.0 mL, 25 mmol) was added resulting in a precipitate. The mixture was heated to 65° C. whereupon the solid dissolved. The mixture was stirred at 65° C. for four hours then cooled to room temperature and left for 11 days. Water, hexanes and ethyl acetate were added and the mixture partitioned. The organics were washed with water, saturated sodium chloride, dried over sodium sulfate and evaporated to dryness to give the title intermediate (5.3 g, 24 mmol) which was used without further purification.

reactant | 6-Bromohexanenitrile | 23 mmol, 3.0 mL | BrCCCCCC#N | C6H10BrN
reactant | Phenethyl alcohol | 25 mmol, 3.0 mL | C(CC1=CC=CC=C1)O | C8H10O
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrabutylammonium bromide | 1.1 mmol, 350 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 15 mL | [OH-].[Na+]
product | 6-phenethyloxyhexanenitrile | 24 mmol, 5.3 g | C(CC1=CC=CC=C1)OCCCCCC#N | C14H19NO
